* source TEST
X_U1         0 N07608 VSS N07668 N07707 REF5025
V_V1         VCC 0 5Vdc
V_V2         VSS 0 -5Vdc
C_C1         N07668 VSS  1u  TC=0,0 
C_C2         N07707 VSS  22u  TC=0,0 
C_C3         0 VSS  1u  TC=0,0 
X_X1         N09159 N08357 N08361 CSD17577Q5A
R_R2         VSS N08361  31.3 TC=0,0 
R_R3         N09159 VCC  60 TC=0,0 
X_U3         N07707 N08361 0 VSS N08357 OPAX388
I_I1         N14667 VSS DC 80mAdc  
C_C4         0 N14713  1n  TC=0,0 
X_Q1         N14713 N15051 N14667 BFG425W/PLP
X_Q2         VCC N14953 N14667 BFG425W/PLP
X_B1         N15485 N15188 N15417 NE325S01/CEL
V_V3         N15417 0 2Vdc
R_R5         N15485 N16658  10 TC=0,0 
V_V4         N21229 0 4.5Vdc
V_V5         N15051 0  
+PULSE -5 0 1.1u 100p 100p 40n 2u
V_V6         N16658 0  
+PULSE -5 5 0 100p 100p 1u 2u
X_D1         N18991 N14713 BAT54/PLP
R_R6         N18991 N15485  150 TC=0,0 
X_U4         N14713 N21229 VCC 0 N15188 TLV3601
V_V7         N14953 0 -1Vdc
